US07994211B2
f. Hydroxy-di-thiophen-2-yl-acetic acid (1S,2R,4S,7S)-7-{[9-(tert-butyldimethyl-silanyloxy)nonyl]methylamino}bicyclo[2.2.1]hept-2-yl ester
Sodium hydride (254 mg, 60% suspension in mineral oil, 6.35 mmol) was added to a solution of (1S,2R,4S,7S)-7-{[9-(tert-butyldimethylsilanyloxy)nonyl]methylamino}-bicyclo[2.2.1]heptan-2-ol (1.01 g, 2.54 mmol) in dry toluene (20 mL) at 0° C. under a nitrogen atmosphere. As soon as the gas evolution subsided hydroxy-di-thiophen-2-yl-acetic acid ethyl ester (817 mg, 3.04 mmol) was added in portions, and when the gas evolution stopped the reaction mixture was heated at 80° C. on a preheated sand bath. After 2.5 h the reaction mixture was poured onto satd ammonium chloride (aq) and ether. The layers were separated, the aqueous layer extracted with ether, and the combined organic layers were washed with brine, dried (Na2SO4), filtered, and concentrated to dryness to afford a light brown viscous oil. The crude product was purified by column chromatography over silica gel using a gradient of 1-40% ethyl acetate in DCM as eluent to afford the product as a very light brown viscous oil.

reactant | Sodium hydride | 6.35 mmol, 254 mg | [H-].[Na+]
reactant | (1S,2R,4S,7S)-7-{[9-(tert-butyldimethylsilanyloxy)nonyl]methylamino}-bicyclo[2.2.1]heptan-2-ol | 2.54 mmol, 1.01 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCN([C@@H]1[C@H]2[C@@H](C[C@@H]1CC2)O)C | C23H47NO2Si
reactant | hydroxy-di-thiophen-2-yl-acetic acid ethyl ester | 3.04 mmol, 817 mg | C(C)OC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C12H12O3S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | Hydroxy-di-thiophen-2-yl-acetic acid (1S,2R,4S,7S)-7-{[9-(tert-butyldimethyl-silanyloxy)nonyl]methylamino}bicyclo[2.2.1]hept-2-yl ester | C(C)(C)(C)[Si](OCCCCCCCCCN([C@@H]1[C@H]2[C@@H](C[C@@H]1CC2)OC(C(C=2SC=CC2)(C=2SC=CC2)O)=O)C)(C)C | C33H53NO4S2Si
